US05202334
Production of 3-benzyloxypyridine (2)
To a suspension of 3-hydroxypyridine (24.7 g, 260 mmole) in distilled methylene chloride (260 ml) were added Adogen 464 (1.6 ml), 40% NaOH (130 ml), benzyl chloride (32 ml, 278 mmole), followed by stirring for 3 days at room temperature. The organic layer was separated from the reaction solution, and the aqueous layer was admixed with water and extracted with methylene chloride. The resulting extract was combined with the methylene chloride layer separated previously, and the combined solution was washed with saturated saline, dried over K2CO3 and freed of the solvent by distillation. The residue was purified on a column of silica gel (7734, n-hexane:ethyl acetate=20:1 to 5:1).

reactant | 3-hydroxypyridine | 260 mmole, 24.7 g | OC=1C=NC=CC1 | C5H5NO
reactant | NaOH | 130 ml | [OH-].[Na+]
reactant | benzyl chloride | 278 mmole, 32 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | methylene chloride | 260 ml | C(Cl)Cl | CH2Cl2
catalyst | Adogen 464 | 1.6 ml | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
product | 3-benzyloxypyridine | C(C1=CC=CC=C1)OC=1C=NC=CC1 | C12H11NO
